*******************************************************************************
*****************************************************************
* NXP PSMN1R5_25YL
*
* Polarity N-Channel
* Ratings 25V/8.00E-04OHMS/15A
*
* Date Created Fri Feb 19 07:16:56 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R5_25YL DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 25000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000744445436539054 TC=0.00420310073713526,7.09647734055278e-05
RBD 9 4 0.000263689297185194 TC=0.00420310073713526,7.09647734055278e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.473e-09
RG 1 2 0.767840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	3870
+ -10	3872
+ -5	3844
+ -2	3013
+ -1	2292
+ -0.5	1837
+ -0.2	1570
+ -0.1	1505
+ 0	1193
+ 0.1	952
+ 0.2	950
+ 0.5	943
+ 1	891
+ 2	720
+ 5	576
+ 10	482
+ 12	461
+ 20	404
+ 25	389



.MODEL MINT NMOS(Vto=2.10707128709257 Kp=4.1600e+02 Nfs=360000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=1000)

.MODEL DBD D(Bv=28.00 Ibv=2.50E-04 Rs=1E-6 Is=4.08628941515744e-12
+ N=1 M=0.39 VJ=0.99 Fc=0.5 Cjo=2.677e-09 Tt=2.67e-08)

.ENDS

*******************************************************************************
